US06329389B1
10% Pd-C (175 mg) and concentrated hydrochloric acid (0.3 ml) were added to a methanol (15 ml) solution of 4-benzyl-2-(N,N-dimethylamino)methyl-1-formyl-1,2,3,4-tetrahydroquinoxaline (350 mg). The reaction mixture was subjected to catalytic hydrogenation at room temperature under 4.5 atmospheric pressure for 2 hours. The catalyst was removed by filtration and the filtrate was concentrated. 10% Aqueous potassium carbonate solution was added to the residue, which was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, then dried and concentrated to give 2-(N,N-dimethylamino)methyl-1-formyl-1,2,3,4-tetrahydroquinoxaline (190 mg).

reactant | hydrochloric acid | 0.3 ml | Cl | ClH
reactant | 4-benzyl-2-(N,N-dimethylamino)methyl-1-formyl-1,2,3,4-tetrahydroquinoxaline | 350 mg | C(C1=CC=CC=C1)N1CC(N(C2=CC=CC=C12)C=O)CN(C)C | C19H23N3O
catalyst | Pd-C | 175 mg | [Pd] | Pd
solvent | methanol | 15 ml | CO | CH4O
product | 2-(N,N-dimethylamino)methyl-1-formyl-1,2,3,4-tetrahydroquinoxaline | 190 mg | CN(C)CC1N(C2=CC=CC=C2NC1)C=O | C12H17N3O
